US07759367B2
3-(2-Chlorophenyl)-5-hydroxymethyl-1-phenyl-1,2-dihydropyridin-2-one
36 mg of 3-(2-chlorophenyl)-5-methoxycarbonyl-1-phenyl-1,2-dihydropyridin-2-one synthesized by the method of Referential Example 3 from 3-bromo-5-methoxycarbonyl-1-phenyl-1,2-dihydropyridin-2-one and 2-chlorophenylboronic acid, was dissolved in 20 ml of toluene. After cooling to −78° C., 0.1 ml diisobutyl aluminum hydride (1.5 M tetrahydrofuran solution) was added dropwise thereinto. While heating from −78° C. to room temperature, the mixture was stirred overnight. Then, 1N hydrochloric acid was added thereto, followed by stirring. The mixture was neutralized with an aqueous solution of sodium hydrogen carbonate; and then extracted with ethyl acetate. Then, the extract was successively washed with water and brine, and dried over anhydrous magnesium sulfate. Then, the solvent was evaporated, and the residue was purified by silica gel chromatography (hexane/ethyl acetate system), to give 12 mg of the titles compound.

reactant | 3-(2-chlorophenyl)-5-methoxycarbonyl-1-phenyl-1,2-dihydropyridin-2-one | 36 mg | ClC1=C(C=CC=C1)C=1C(N(C=C(C1)C(=O)OC)C1=CC=CC=C1)=O | C19H14ClNO3
reactant | 3-bromo-5-methoxycarbonyl-1-phenyl-1,2-dihydropyridin-2-one | BrC=1C(N(C=C(C1)C(=O)OC)C1=CC=CC=C1)=O | C13H10BrNO3
reactant | 2-chlorophenylboronic acid | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | diisobutyl aluminum hydride | 1.5 M, 0.1 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(2-Chlorophenyl)-5-hydroxymethyl-1-phenyl-1,2-dihydropyridin-2-one | 12 mg | ClC1=C(C=CC=C1)C=1C(N(C=C(C1)CO)C1=CC=CC=C1)=O | C18H14ClNO2
